2198-10-19 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   VFib/MVA
   24 Hour Events:
   Extubated Yesterday, on 2L this AM
 TRANSTHORACIC ECHO - At [**2198-10-18**] 08:00 AM
   The left atrium is mildly dilated. The estimated right atrial pressure
   is 10-20mmHg. There is moderate symmetric left ventricular hypertrophy.
   The left ventricular cavity size is normal. Overall left ventricular
   systolic function is normal (LVEF 60%). However, the posterior wall
   (poorly visualized) may be hypokinetic. Right ventricular chamber size
   and free wall motion are normal. The aortic valve leaflets are mildly
   thickened. There is a minimally increased gradient consistent with
   minimal aortic valve stenosis. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-10-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2198-10-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-10-19**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 76 (57 - 85) bpm
   BP: 128/70(85) {97/57(66) - 157/85(101)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.4 kg (admission): 87.3 kg
   Height: 68 Inch
                  Total In:
                                                                  1,759 mL
                                                                     30 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,129 mL
   Blood products:
   Total out:
                                                                  1,551 mL
                                                                    300 mL
   Urine:
                                                                    901 mL
                                                                    300 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 481 (481 - 481) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.38/41/81.[**Numeric Identifier **]//0
   Ve: 10.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   GENERAL: WDWN. Intubated and sedated. Abrasion on R cheek.
   HEENT: ET tube in palce
   NECK: C collar in place
   CARDIAC: RR, normal S1, S2.III/VI systolic murmur at RUSB (high
   pitched), also low pitched at apex
   LUNGS: CTA B
   ABDOMEN: distended but Soft, NT. No ascites
   EXTREMITIES: No c/c/e. WWP
   SKIN: no rashes.
   Labs / Radiology
   204 K/uL
   13.5 g/dL
   89 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   137 mEq/L
   36.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2198-10-17**]  07:09 PM
                            [**2198-10-17**]  07:55 PM
                            [**2198-10-17**]  10:07 PM
                            [**2198-10-17**]  10:28 PM
                            [**2198-10-18**]  04:07 AM
                            [**2198-10-18**]  11:08 AM
                            [**2198-10-18**]  12:01 PM
                            [**2198-10-18**]  05:23 PM
                            [**2198-10-19**]  06:17 AM
   WBC
   7.5
   Hct
   43
   36.5
   Plt
   187
   204
   Cr
   0.8
   TropT
   0.68
   TCO2
   21
   21
   21
   21
   23
   25
   Glucose
   104
   89
   Other labs: CK / CKMB / Troponin-T:1045/26/0.68, Lactic Acid:0.7
   mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   AM ABG 7.38/41/81/25/0
   Yest PM 7.35/40/73/23/-3
   Assessment and Plan
   63 yo M with PMH of CAD s/p MI at age 36 admitted s/p MVA and V fib
   arrest with shock x 1.
   # CORONARIES: Cath revealed TO of RCA with L to R collaterals and 90%
   OM1 lesion s/p BMS x 2. Radial approach as patient has bilateral
   femoral artery occlusion.
   - ASA, plavix, high dose statin, ACE, will increase dose today to 12.5
   for afternoon dose and if tolerates 25 in evening.
   - hold bblocker for now as bradycardic
   - monitor O2 sats on R wrist
   - monitor CKs until peak
   # RESP: Intubated. Will need C-spine read before extubated in case
   needs to be reintubated.
   - CXR
   # PUMP:
   - ECHO post intervention
   - will need MRI once stable to eval for scar tissue as etiology of VT.
   Otherwise if ischemia is thought to be the cause, now stented and may
   not require ICD.
   # RHYTHM: V fib in the field responsive to defibrillation.  Sinus
   bradycardic on arrival to CCU
   - monitor on tele
   # HTN: ACEi at increased doses as tolerates
   - bblocker once rate improves
   # Hyperlipidemia:
   - statin, zetia
   # Presumed gout:
   - continue allopurinol
   # PVD:
   - start pletal in AM
   FEN: NPO, replete lytes prn, gentle IVFs
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain managment with fentanyl
   -Bowel regimen
   CODE: Full
   CONTACT: [**Name (NI) 1359**], [**Telephone/Fax (1) 2319**]
   DISPO: Cardiology floor service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-10-17**] 08:30 PM
   20 Gauge - [**2198-10-18**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-10-20 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   EP recommeded outpatient MRI, however, patient refuses due to
   claustrophobia.  EP f/u scheduled.  Patient is not to drive for >= 6
   mo.  OSH records obtained.
   Called out to [**Hospital Ward Name 408**] 3 but no beds available.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-10-20**] 05:21 AM
   Other medications:
   Flowsheet Data as of  [**2198-10-20**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 73 (52 - 80) bpm
   BP: 130/74(87) {113/63(76) - 153/76(108)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.4 kg (admission): 87.3 kg
   Height: 68 Inch
                  Total In:
                                                                  1,110 mL
                  PO:
                                                                  1,110 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    910 mL
                                                                    600 mL
   Urine:
                                                                    910 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                   -600 mL
   Physical Exam
   GENERAL: NAD
   NECK: C
   CARDIAC: RR, normal S1, S2.
   LUNGS: Diffuse rhonchi
   ABDOMEN: distended but Soft, NT. No ascites
   EXTREMITIES: No c/c/e. WWP
   SKIN: no rashes.
   Labs / Radiology
   195 K/uL
   13.5 g/dL
   108 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   10 mg/dL
   103 mEq/L
   139 mEq/L
   39.2 %
   6.7 K/uL
        [image002.jpg]
                            [**2198-10-17**]  07:55 PM
                            [**2198-10-17**]  10:07 PM
                            [**2198-10-17**]  10:28 PM
                            [**2198-10-18**]  04:07 AM
                            [**2198-10-18**]  11:08 AM
                            [**2198-10-18**]  12:01 PM
                            [**2198-10-18**]  05:23 PM
                            [**2198-10-19**]  05:30 AM
                            [**2198-10-19**]  06:17 AM
                            [**2198-10-20**]  05:14 AM
   WBC
   7.5
   7.0
   6.7
   Hct
   36.5
   39.4
   39.2
   Plt
   187
   204
   183
   195
   Cr
   0.8
   0.7
   0.7
   TropT
   0.68
   0.30
   TCO2
   21
   21
   21
   23
   25
   Glucose
   89
   74
   108
   Other labs: CK / CKMB / Troponin-T:684/12/0.30, Lactic Acid:0.7 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment and Plan
   63 yo M with PMH of CAD s/p MI at age 36 admitted s/p MVA and V fib
   arrest with shock x 1.
   # CORONARIES: Cath revealed TO of RCA with L to R collaterals and 90%
   OM1 lesion s/p BMS x 2. Radial approach as patient has bilateral
   femoral artery occlusion.
   - ASA, plavix, high dose statin, Captopril 25 TID.
   - Add home dose of BB
   - Consult EP, as STEMI likely cause of VFib event.  Pt has had coronary
   disease for many years and has PVD, pt may have had scar from other
   silent ischemic event.
   # RESP: Extubated yesterday.  Improving residual horseness.  Pt on 2L
   NC with O2 sats in upper 90s.
   - Monitor
   # PUMP:
   - ECHO post intervention
   - will need MRI once stable to eval for scar tissue as etiology of VT.
   Otherwise if ischemia is thought to be the cause, now stented and may
   not require ICD.
   # RHYTHM: V fib in the field responsive to defibrillation.  NSR with
   PVCs
   - Consult EP, likely that MI precipitated event.
   # HTN: ACE and BB
   # Hyperlipidemia:
   - statin, zetia
   # Presumed gout:
   - continue allopurinol
   # PVD:
   -          Start pletal
   FEN: Soft diet, replete lytes prn,
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain managment with fentanyl
   -Bowel regimen
   CODE: Full
   CONTACT: [**Name (NI) 1359**], [**Telephone/Fax (1) 2319**]
   DISPO: to floor
                   1. Aspirin 325 mg PO DAILY
   7. Ezetimibe 10 mg PO DAILY
   2. Captopril 25 mg PO TID
   8. Heparin 5000 UNIT SC TID
   3. Clopidogrel 75 mg PO DAILY
   9. Pletal *NF* 100 mg Oral [**Hospital1 **]
   4. Atorvastatin 80 mg PO DAILY
   10. Pantoprazole 40 mg PO Q24H
   5. Metoprolol Tartrate 12.5 mg PO BID
   11. Albuterol MDI 2 PUFF IH Q6H:PRN
   6. Allopurinol 200 mg PO DAILY
   12. Lorazepam 2 mg IV Q4H:PRN CIWA>10
                   13. Acetaminophen 325-650 mg PO Q6H:PRN